US04742061
1-[(2-Chlorophenyl)acetyl]-1,2,3,4-tetrahydrobenzo[c]-1,5-naphthyridine
Powdered 1,2,3,4-tetrahydrobenzo[c]-1,5-naphthyridine (8.29 g) was added to ice cold, stirred 2-chlorophenylacetyl chloride (30 ml) without external cooling. A thick suspension of crystalline material formed and a mild exothermic reaction was observed. After stirring overnight at room temperature the suspension was gradually diluted with anhydrous ether to give a tacky solid which formed a gummy mass. On continued stirring the material solidified and disintegrated to give a suspension. The material was isolated by vacuum filtration and washed well with ether. A solution of the filter cake and water (300 ml) was basified with 10% sodium hydroxide solution and extracted with dichloromethane (2×250 ml). The combined turbid organic phase was washed once with saturated brine, dried over anhydrous sodium sulfate, filtered and concentrated to an oil. A solution of the oil and toluene (150 ml) was concentrated to remove any residual moisture, whereupon the material solidified. Thin layer chromatographic analysis (silica gel, ethyl acetate) indicated the presence of 40-50% starting material. A solution of the solid in dichloromethane (200 ml) was added to stirred, ice-cold 2-chlorophenylacetyl chloride (27 ml) without external cooling. After three hours, the solution was concentrated to reduce the reaction volume, whereupon a suspension formed. Sufficient dichloromethane (200 ml) was added to afford a solution which was allowed to stand for 48 hours at room temperature. The solution was concentrated to remove most of the dichloromethane and the residual oil was treated with excess ethereal hydrogen chloride and diluted with ether (400 ml) to give a tacky precipitate. The ether was decanted and the precipitate was triturated with fresh ether (solidified). The solid was isolated by vacuum filtration, washed well with ether and converted to the free base. Thin layer chromatographic analysis (silica gel, ethyl acetate) indicated the presence of a small amount of starting amine, the product and two higher Rf spots. The mixture was separated by HPLC (silica gel; sample applied in 200 ml of dichloromethane; eluted with ethyl acetate; 200 ml/min flow rate; recycle technique utilized to optimize the separation). The appropriate fractions were combined and concentrated to give a solid (7.97 g) which was triturated with ether, filtered, and dried in vacuo at 40° C., m.p. 176°-178° C.

reactant | 1,2,3,4-tetrahydrobenzo[c]-1,5-naphthyridine | 8.29 g | N1C=2C3=C(C=NC2CCC1)C=CC=C3 | C12H12N2
reactant | 2-chlorophenylacetyl chloride | 30 ml | ClC1=C(C=CC=C1)CC(=O)Cl | C8H6Cl2O
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1-[(2-Chlorophenyl)acetyl]-1,2,3,4-tetrahydrobenzo[c]-1,5-naphthyridine | 7.97 g | ClC1=C(C=CC=C1)CC(=O)N1C=2C3=C(C=NC2CCC1)C=CC=C3 | C20H17ClN2O
